US08865713B2
Step A: Preparation of 5-benzyloxy-4-chloro-2-nitro-phenylamine.
Benzyl alcohol (12.5 mL, 0.121 mol), 4,5-dichloro-2-nitro-phenylamine (5.00 g, 24.2 mmol), cesium carbonate (15.7 g, 48.3 mmol), and DMA (110 mL) were combined in a sealable pressure vessel. The vessel was purged with dry nitrogen, sealed, and heated at 80° C. for 17 h. The reaction mixture was poured into brine (400 mL) and cooled to 0° C. The resulting precipitate was collected and dissolved in EtOAc (400 mL). The organic layer was washed with water (50 mL) and brine (50 mL). The organic layers were combined, dried, filtered, and concentrated under reduced pressure. The residue was purified (FCC) (1-50% EtOAc/hexanes, dryloaded) to yield the titled compound (2.47 g, 37% yield). MS (ESI/CI): mass calcd. for C13H11ClN2O3, 278.1; m/z found, 279.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 8.20 (s, 1H), 7.50-7.30 (m, 5H), 6.23 (s, 1H), 6.19 (br s, 2H), 5.16 (s, 2H).

reactant | Benzyl alcohol | 0.121 mol, 12.5 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 4,5-dichloro-2-nitro-phenylamine | 24.2 mmol, 5.00 g | ClC1=CC(=C(C=C1Cl)N)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | cesium carbonate | 48.3 mmol, 15.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 110 mL | CC(=O)N(C)C | C4H9NO
product | 5-benzyloxy-4-chloro-2-nitro-phenylamine | 2.47 g, 37% yield | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)N)[N+](=O)[O-])Cl | C13H11ClN2O3
